US09024027B2
A mixture of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (0.615 g, 1.463 mmol), 2-(1H-indol-1-yl)acetic acid (0.282 g, 1.610 mmol), EDC (0.842 g, 4.39 mmol), and DMAP (0.268 g, 2.195 mmol) in DCM (20 ml) was stirred at room temperature overnight. The reaction was washed with 1N HCl, aqueous NaHCO3 and brine; the organic phase was dried over Na2SO4 and evaporated to dryness. The crude was purified by flash chromatography on silica gel column (DCM/MeOH from 99/1 to 98/2) to afford (S)-4-(2-(2-(1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (0.615 g, 1.065 mmol, 72.8% yield). MS/ESI+ 577.2 [MH]+; [αD]=+5.500, c=0.44, DCM; 1H NMR (300 MHz, DMSO-d6) d ppm 8.52 (s, 2H), 7.48-7.63 (m, 1H), 7.27 (d, 1H), 7.13-7.19 (m, 2H), 7.10 (td, 1H), 7.00-7.05 (m, 1H), 6.99 (d, 1H), 6.92 (dd, 1H), 7.06 (t, 1H), 6.45 (dd, 1H), 6.02 (dd, 1H), 5.23 (d, 1H), 5.05 (d, 1H), 3.84 (d, 2H), 3.42 (dd, 1H), 3.20 (dd, 1H), 1.13-1.34 (m, 1H), 0.49-0.67 (m, 2H), 0.29-0.46 (m, 2H).

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 1.463 mmol, 0.615 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | 2-(1H-indol-1-yl)acetic acid | 1.610 mmol, 0.282 g | N1(C=CC2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | EDC | 4.39 mmol, 0.842 g
catalyst | DMAP | 2.195 mmol, 0.268 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-(2-(2-(1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 1.065 mmol, 0.615 g, 72.8% yield | N1(C=CC2=CC=CC=C12)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C28H24Cl2F2N2O5
